US05444074
a) 5-Dimethylamino-3-(chloromethyl)-1,2,4-thiadiazole
A solution of dimethylamine in ethanol (0.5 ml×33%) was added to a stirred suspension of 5-chloro-3-(chloromethyl)-1,2,4-thiadiazole (540 mg)(J. Goerdeler, Chem. Ber. 1957, 90, p 182 or ICI EP 0006679) and potassium carbonate (1.0 g) in methanol. The solution was stirred at room temperature for three hours, and then the solvent removed under reduced pressure. The residue was taken up in ethyl acetate (40 ml), washed with water (20 ml) and brine (20 ml). The organic layers were dried (MgSO4), filtered and the solvent removed to afford a yellow gum. Flash chromatography using 10% ethyl acetate in hexane as eluent, afforded the product as a yellow oil (330 mg). 1H NMR (360 MHz, CDCl3) d 3.15 (6H, s, N(CH3)2), 4.51 (2H, s, Cl--CH2); MS (CI+) m/z 178 ((M+1)+, 95%).

reactant | dimethylamine | CNC | C2H7N
reactant | 5-chloro-3-(chloromethyl)-1,2,4-thiadiazole | 540 mg | ClC1=NC(=NS1)CCl | C3H2Cl2N2S
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 5-Dimethylamino-3-(chloromethyl)-1,2,4-thiadiazole | 330 mg | CN(C1=NC(=NS1)CCl)C | C5H8ClN3S
